US05223536
Using a Parr hydrogenation apparatus, 0.23 gram (0.0005 mole) of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-pentene was hydrogenated in 50 ml of ethanol in the presence of 10% palladium on charcoal. Upon completion of the uptake of the theoretical amount of hydrogen, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure, yielding 0.2 gram of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)pentane. The nmr spectrum was consistent with the proposed structure.

reactant | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-pentene | 0.0005 mole, 0.23 gram | C1(CC1)C(C=CC(C)C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C26H24ClFO
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)pentane | 0.2 gram | C1(CC1)C(CCC(C)C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C26H26ClFO
